Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain/Nausea/Vomiting/Diarrhea

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with history of HIV (most recent CD4 290, VL low) on 
HAART, cirrhosis of unclear etiology, c/b esophageal varices s/p 
TIPS, HTN, HL, GERD presents with abdominal pain. Pain is in 
LUQ, had mild intermittent discomfort for 2 weeks, relieved by 
BMs. Patient noted at the beginning of the week, he had some 
bright red blood after a bowel movement.  No further symptoms 
until 3 days later, he began experiecning voluminous diarrhea 
and vomiting. NB/NB.  Next day felt about the same, with 
volumnious diarrhea and n/v.  Symptoms were accompanied by 
abdominal pain that was cramping in nature, and slightly 
relieved with BM/Vomting but quickly returning afterwards.  By 
the next day, patient presented to the ER for further 
evaluation.
.  
In the ED, initial VS: 98.4 66 172/58 16 100%. Exam was noteable 
for mildly TTP in LUQ and guaiac positive reddish stool. CT 
abdomen/pelvis showed no acute process, no colitis. Lactate 
returned at 1.8. He received some morphine and zofran for 
abdominal pain and nausea. Liver fellow was called, who 
recommended admitting to liver service with possibility of flex 
sig in the AM.  
.  
On the floor, patient feels well. No longer nauseous or having 
abdominal pain after medication.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, constipation, melena, dysuria, hematuria. 

 
Past Medical History:
* Cirrhosis c/b ascites and variceal bleeding, no encephalopathy
-- cause not yet clearly established
-- h/o liver biopsy in ___ showing lobular hepatitis, CMV 
positive
-- EGD ___ OSH which revealed esophageal varices:
3 columns-2 grade III and 1 grade II esophageal varices with
stigmata of bleeding and were banded. Pt was also noted gastric
varices. Banded x2 at OSH.
* Hepatitis B, but HbSAb positive/HbCAb positive
* HIV (CD4 most recent CD4 290 in ___, VL <48 ___ on 
HAART, on dapsone ppx
* HTN
* Hyperlipidemia
* Anemia
* GERD
* Hemorrhoids

 
Social History:
___
Family History:
unavailable as patient states he never knew his family well 
 
Physical Exam:
On Admission:
VS: 97.9, 131/66, 76, 20, 96%RA  
GENERAL: NAD, AAOx3  
HEENT: PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no JVD.  
HEART: S1S2, RRR, III/VI diastolic murmur  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding. LUQ 
nontender to palpation even with deep palpation. -ascites  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact, 
no asterixis  
.
On Discharge
VS: 98.3, 105/45, 76, 20, 96%RA  
GENERAL: NAD, AAOx3. Cachectic with temporal wasting. 
HEENT: PERRLA, EOMI, sclerae anicteric, MMM, OP clear. Duentures 
in place  
NECK: Supple, no JVD.  
HEART: S1S2, RRR, III/VI diastolic murmur (chronic)
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding. LUQ 
nontender to palpation even with deep palpation. No abdominal 
bruits or palpable pulsations.  No ascites.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  Multiple tatoos all over body.
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact, 
no asterixis  

 
Pertinent Results:
CBC
___ 03:40PM BLOOD WBC-8.7# RBC-3.65* Hgb-11.7* Hct-34.1* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-13.9 Plt ___
___ 06:38AM BLOOD WBC-6.1 RBC-3.35* Hgb-10.8* Hct-31.4* 
MCV-94 MCH-32.3* MCHC-34.4 RDW-14.0 Plt ___
___ 03:40PM BLOOD Neuts-59.5 ___ Monos-5.0 Eos-6.4* 
Baso-0.4

Coags
___ 05:01PM BLOOD ___ PTT-26.8 ___
___ 06:38AM BLOOD ___ PTT-25.5 ___

CMP
___ 03:40PM BLOOD Glucose-89 UreaN-18 Creat-1.0 Na-140 
K-4.7 Cl-108 HCO3-22 AnGap-15
___ 06:38AM BLOOD Glucose-86 UreaN-17 Creat-1.0 Na-138 
K-4.0 Cl-107 HCO3-25 AnGap-10
___ 03:40PM BLOOD Calcium-8.8 Phos-2.9 Mg-1.9
___ 06:38AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.8

LFT
___ 03:40PM BLOOD ALT-18 AST-36 AlkPhos-106 TotBili-1.0
___ 06:38AM BLOOD ALT-15 AST-18 AlkPhos-96 TotBili-0.8
___ 03:40PM BLOOD Lipase-47

CE
___ 03:40PM BLOOD cTropnT-<0.01

AFP
___ 06:38AM BLOOD AFP-1.6

LACTATE
___ 05:15PM BLOOD Lactate-1.8

URINE STUDIES
___ 04:50PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 04:50PM URINE RBC-1 WBC-3 Bacteri-FEW Yeast-NONE Epi-___BDOMEN
FINDINGS: This exam is not tailored for supradiaphragmatic 
evaluation, note 
is made of microatelectasis in the dependent portions of the 
lungs. Heart 
size is normal. 
 
Patient is status post a TIPS procedure. The liver is homogenous 
in 
attenuation without discrete masses or lesions. The gallbladder 
is not 
distended and contains gallstones. No gallbladder wall edema or 
pericholecystic fluid identified. The pancreas and spleen are 
unremarkable.  
Kidneys are normal in size and excrete contrast symmetrically. 
There is 
redemonstration of bilateral renal cysts. There is no 
hydroureter. The right 
adrenal gland contains a stable 1-cm nodule. The right adrenal 
gland is 
unremarkable.  
  
The stomach, small bowel, and large bowel are not distended and 
demonstrate 
normal wall thickness. There is no free fluid or free air within 
the abdomen. 
No mesenteric, retroperitoneal, or portacaval lymphadenopathy is 
identified. 
 
The aorta demonstrates diffuse atherosclerotic disease with 
mural thrombus and 
irregularity. A narrowing is identified at the takeoff of the 
celiac and 
superior mesenteric artery, though patency is maintained. 
  
CT PELVIS: The appendix is visualized and is normal. There is no 
free fluid 
within the pelvis. The rectum and sigmoid colon are 
unremarkable. No 
pelvic or inguinal lymphadenopathy identified. There is a small 
right-sided 
fat-containing inguinal hernia. 
  
OSSEOUS STRUCTURES: There are no suspicious lytic or blastic 
lesions 
identified. Degenerative changes are noted in the lower lumbar 
spine with 
some disc space height loss, most notable in the L1-L2 and L2-L3 
disc spaces.  
Anterior osteophyte formation is identified. 
  
IMPRESSION: 
1. Patient is status post TIPS with a normal-appearing liver. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Left adrenal 1-cm mass. Given year long stability and lack of 
suspicious 
features, this statistically represents an adenoma. If further 
investigation 
is desired, could be further evaluated with an adrenal MRI. 
4. Diffuse aortic atherosclerosis with mural thrombus and 
calcification 
narrowing though not occluding the ostium of the mesenteric 
vessels. 
  
The study and the report were reviewed by the staff radiologist. 


PENDING LABS:
Blood Cultures x 2
Stool Culture/ O&P/ C. Difficile
Cyclospora; Stool culture; Microsporidium; Stool culture - 
Yersinia;
 
Brief Hospital Course:
Gastroenterits-  most likely viral.  Patient presented with 
nausea/vomiting for 2 days, with gradual decrease in 
symptomatogology with bland/BRAT diet.  Treated symptomatically 
with zofran, bismuth subsalicylate.  Bowel movements down to 2 
prior to discharge.  Stool studies sent as patient HIV positive.
*Follow up symptoms.
*Follow up pending stool cultures.
 
Hemmorhoidal Bleed:  Admission note documents bright red blood 
per rectum.  No episodes of rectal bleeding in house with stable 
HCT.  Most likely minimal local bleeding with bowel movements 
from hemmorrhoids.

Cirrhosis:  Original admission note declares patient as having 
HBV cirrhosis.  OMR shows HbsAb positive HbcAb positive 
indicating previous infection which was cleared.  Unclear 
etiology of patient's cirrhoisis.
*Told to titrate lactulose to 3 BM per day
*Follow up LFT's (normal in house)
 
HIV - most recent CD4 count 290.  Atripla continued.  

TRANSITIONAL ISSUES: None
PENDING LABS:  Stool cultures/ O&P
 
Medications on Admission:
Dapsone 50 mg daily  
Darunavir (Prezista) 800 mg daily  
Ritonavir (Norvir) 100 mg daily  
Lamivudine (Epivir) 150 mg BID  
Pantoprazole 40 mg q12h  
Lactulose ___ tablespoons by mouth ___ times per day  
Pravastatin 10mg qhs  
Amlodipine 2.5mg daily  

 
Discharge Medications:
1. dapsone 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. lamivudine 150 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. pravastatin 20 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

6. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.  
8. lactulose 10 gram/15 mL Syrup Sig: Three (3) tablespoons PO 
___ times per day: Adjust to ensure 3 loose BMs per day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary: Viral gastroenteritis.
.
Secondary: 
HIV
Hypertension
Hyperlipidemia  
Anemia  
Gastroesophageal Reflux
Internal Hemorrhoids  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
  You presented to the hospital with nausea, vomiting, and 
diarrhea as well as abdominal pain.  You had several lab tests 
performed which did not suggest you had a bacterial infection.  
As your symptoms began to spontaneously resolve, you most likely 
acquired a viral gastroenteritis.  Please be sure to drink 
plenty of fluids and consume a bland BRAT diet (Bananas, Rice, 
Apple, Toast- binding/easty to digest foods) until you begin to 
feel better.  Avoid hard to digest foods such as dairy until you 
are symptom free.
. 
No changes have been made to your medications.
. 
If you experience any return of your symptoms, fevers, bloody 
diarrhea, or bloody vomiting, please return to your doctors 
office ___ back to the hospital for further evaluation.  
.
It has been a pleasure taking care of you Mr. ___!
 
Followup Instructions:
___